US08614215B2
Intermediate 54: 4-Methoxy-2-nitrobenzaldehyde
A mixture of 1-(dibromomethyl)-4-methoxy-2-nitrobenzene (42 g, 0.23 mol) and NaHCO3 (3 Eq) in water (400 mL) is refluxed for 22 h. The reaction mixture is cooled to room temperature and the product is extracted with EtOAc (2×150 mL). The organic layer is washed with a solution of 1.5N HCl (2×100 mL), water (2×100 mL) and brine then dried over Na2SO4. The solvent is removed under reduced pressure to afford 20 g (85%) of the title compound as a brown solid. 1H NMR (DMSO-d6, 400 MHz) δ 10.03 (s, 1H), 7.93-7.95 (m, 1H), 7.61 (s, 1H), 7.40-7.41 (m, 1H), 3.93 (s, 3H).

reactant | 1-(dibromomethyl)-4-methoxy-2-nitrobenzene | 0.23 mol, 42 g | BrC(C1=C(C=C(C=C1)OC)[N+](=O)[O-])Br | C8H7Br2NO3
reactant | NaHCO3 | 3 Eq | C(=O)(O)[O-].[Na+]
solvent | water | 400 mL | O | H2O
product | 4-Methoxy-2-nitrobenzaldehyde | 20 g, 85% | COC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
